US04207326
A mixture of 48.1 g (0.150 mol) of 3,5-dimethyl-1-hexadecyl-pyrazole, 25.6 g (0.150 mol) of benzyl bromide and 200 ml of sulfolane is stirred and heated to 100° C., and then kept at this temperature for 11 hrs. The reaction mixture is allowed to cool down overnight. It is then stirred and 100 ml of ethyl acetate is added. The crystalate is filtered off, washed with ethyl acetate, and vacuum dried at 50° C./12 Torr to yield about 36.3 g of 2-benzyl-3,5-dimethyl-1-hexadecyl-pyrazolium bromide; m.p. 166°-167° C.

reactant | 3,5-dimethyl-1-hexadecyl-pyrazole | 0.150 mol, 48.1 g | CC1=NN(C(=C1)C)CCCCCCCCCCCCCCCC | C21H40N2
reactant | benzyl bromide | 0.150 mol, 25.6 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sulfolane | 200 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-benzyl-3,5-dimethyl-1-hexadecyl-pyrazolium bromide | about 36.3 g | [Br-].C(C1=CC=CC=C1)N1[N+](=C(C=C1C)C)CCCCCCCCCCCCCCCC | InChI=1S/C28H47N2.BrH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-20-23-29-26(2)24-27(3)30(29)25-28-21-18-17-19-22-28;/h17-19,21-22,24H,4-16,20,23,25H2,1-3H3;1H/q+1;/p-1
